US05958942
iii) Synthesis of 3-trichloroacetyl-5-[N-tert-butoxy carbonyl-N-[4-(2-trifluoromethanesulfonamidoethan-1-yl) phenyl]aminomethyl]imidazo[1,2-a]pyridine
To a solution of 2.00 g of 5-[N-tert-butoxycarbonyl-N-[4-(2-trifluoromethanesulfonamidoethan-1-yl)phenyl] aminomethyl]imidazo[1,2-a]pyridine and 1.47 g (12.04 mmol) of 4-(N,N-dimethylamino)pyridine in 20 ml of chloroform was added dropwise 1.34 ml (12.04 mmol) of trichloroacetyl chloride at room temperature. The reaction mixture was heated for 18 hours under reflux. The reaction mixture was poured into ice-water. The mixture was neutralized with a saturated aqueous solution of sodium hydrogencarbonate, and extracted with 100 ml of chloroform. The organic layer was washed with 100 ml of purified water three times and further with 100 ml of a saturated aqueous saline solution, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform) to afford 1415 mg of the desired compound (54.8%, a yellow liquid).

reactant | 5-[N-tert-butoxycarbonyl-N-[4-(2-trifluoromethanesulfonamidoethan-1-yl)phenyl] aminomethyl]imidazo[1,2-a]pyridine | 2.00 g | C(C)(C)(C)OC(=O)N(C1=CC=C(C=C1)CCNS(=O)(=O)C(F)(F)F)CC1=CC=CC=2N1C=CN2 | C22H25F3N4O4S
reactant | trichloroacetyl chloride | 12.04 mmol, 1.34 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | 4-(N,N-dimethylamino)pyridine | 12.04 mmol, 1.47 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-trichloroacetyl-5-[N-tert-butoxy carbonyl-N-[4-(2-trifluoromethanesulfonamidoethan-1-yl) phenyl]aminomethyl]imidazo[1,2-a]pyridine | 1415 mg | ClC(C(=O)C1=CN=C2N1C(=CC=C2)CN(C2=CC=C(C=C2)CCNS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C)(Cl)Cl | C24H24Cl3F3N4O5S
